US07994185B2
N-{2-chloro-3-[2-(1,1-dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide
Following a procedure analogous to the procedure described in Example 26 using N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide (130 mg, 0.255 mmol) and ammonium formate (161 mg, 2.55 mmol), the title compound was obtained as a white solid (50 mg, 39% yield). MS (ESI): 474 [M+H]+.

reactant | N-{2-chloro-3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide | 0.255 mmol, 130 mg | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC(=NC=C1)Cl)C(C)(C)C)NS(=O)(=O)C1=COC=C1 | C21H18Cl2N4O3S2
reactant | ammonium formate | 2.55 mmol, 161 mg | C(=O)[O-].[NH4+]
product | N-{2-chloro-3-[2-(1,1-dimethylethyl)-5-(4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}-3-furansulfonamide | ClC1=C(C=CC=C1C=1N=C(SC1C1=NC=NC=C1)C(C)(C)C)NS(=O)(=O)C1=COC=C1 | C21H19ClN4O3S2
